US07964607B2
6-[(3S,4S)-1-(4-methoxybenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 4-methoxybenzaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.01 (s, 1H), 7.29 (d, J=8.3 Hz, 2H), 6.87 (d, J=8.7 Hz, 2H), 4.82-4.08 (m, 1H), 4.13-4.08 (m, 2H), 3.84-3.75 (m, 4H), 3.61-3.51 (m, 3H), 3.35 (t, J=8.7 Hz, 1H), 2.97 (d, J=9.9 Hz, 1H), 2.82-2.80 (m, 1H), 2.53-2.49 (m, 1H), 2.42-2.30 (m, 3H), 1.95-1.82 (m, 3H), 1.18 (d, J=7.1 Hz, 3H).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 6-[(3S,4S)-1-(4-methoxybenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | COC1=CC=C(CN2C[C@H]([C@@H](C2)C)C=2NC(C3=C(N2)N(N=C3)C3CCOCC3)=O)C=C1 | C23H29N5O3
